data/rdb19/train.csv
rxn,smiles,ea
5201,[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:25]([C:26]([C:27]([H:28])[N:29]([C:30](=[O:31])[H:38])[H:37])([H:35])[H:36])([H:32])([H:33])[H:34]>>[C:1]([C:2]([C:3]([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])([H:16])[C:27]([C:26]([C:25]([H:32])([H:33])[H:34])([H:35])[H:36])([H:28])[N:29]([C:30](=[O:31])[H:38])[H:37])([H:14])[H:15])([H:11])([H:12])[H:13].[C:4]([H:17])([H:18])[H:19],65.35010647645686
1016,[C:14]([O:15][C:16](=[O:17])[C:18](=[C:19]([H:24])[H:25])[C:20]([H:26])([H:27])[H:28])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:16](=[O:17])[C:18](=[C:19]([H:24])[H:25])[C:20]([H:26])([H:27])[H:28].[C:1]([C:2](=[C:3]([H:4])[H:5])[C:6](=[O:7])[O:8][H:13])([H:9])([H:10])[H:11].[H:12][O:15][C:14]([H:21])([H:22])[H:23],47.62016544141807
5363,[C:17]([C:18]([C:19]([H:20])[H:21])([O:22][C:23](=[O:24])[C:25]([H:30])([H:31])[H:32])[H:29])([H:26])([H:27])[H:28].[C:1](=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10]>>[C:17]([C:18](=[C:19]([H:20])[H:21])[O:22][C:23](=[O:24])[C:25]([H:30])([H:31])[H:32])([H:26])([H:27])[H:28].[C:1](=[C:2]([C:3]1=[C:4]([H:12])[C:5]([H:13])[C:6]([H:14])([H:29])[C:7]([H:15])=[C:8]1[H:16])[H:11])([H:9])[H:10],40.02204024710227
445,[C:1]([O:2][O:3])([H:4])([H:5])[H:6].[C:7]([C:8]([C:9]([C:10]([H:19])([H:20])[H:21])([O:11][C:12]([H:22])([H:23])[H:24])[H:18])([H:16])[H:17])([H:13])([H:14])[H:15]>>[C:1]([O:2][O:3][C:12]([H:22])([H:23])[H:24])([H:4])([H:5])[H:6].[C:7]([C:8]([C:9]([C:10]([H:19])([H:20])[H:21])([O:11])[H:18])([H:16])[H:17])([H:13])([H:14])[H:15],65.64318216597894
4350,[C:16]([C:17]([C:18]([H:19])[O:20][C:21](=[O:22])[C:23]([H:29])([H:30])[H:31])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([H:11])([H:12])[C:18]([C:17]([C:16]([H:24])([H:25])[H:26])([H:27])[H:28])([H:19])[O:20][C:21](=[O:22])[C:23]([H:29])([H:30])[H:31])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10],10.158709763607476
2248,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9]([O:10][C:11](=[O:12])[C:13](=[C:14]([H:21])[H:22])[H:20])([H:18])[H:19])([H:15])([H:16])[H:17]>>[C:1]([C:2]([H:3])([H:4])[C:14]([C:13]([C:11]([O:10][C:9]([C:8]([H:15])([H:16])[H:17])([H:18])[H:19])=[O:12])[H:20])([H:21])[H:22])([H:5])([H:6])[H:7],11.280988686950876
4970,[C:15]([C:16](=[O:17])[O:18][C:19](=[C:20]([H:25])[H:26])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[O:5][C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:4])[O:5][C:6]([H:12])([H:13])[H:14])[H:10])([H:7])([H:8])[H:9].[H:11][C:20]([C:19]([O:18][C:16]([C:15]([H:21])([H:22])[H:23])=[O:17])[H:24])([H:25])[H:26],33.05407488840865
5197,[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:25]([C:26]([C:27]([H:28])[N:29]([C:30](=[O:31])[H:38])[H:37])([H:35])[H:36])([H:32])([H:33])[H:34]>>[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([H:16])[C:27]([C:26]([C:25]([H:32])([H:33])[H:34])([H:35])[H:36])([H:28])[N:29]([C:30](=[O:31])[H:38])[H:37])([H:14])[H:15])([H:11])([H:12])[H:13].[c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24],75.06603837374132
2886,[C:16]([C:17]([O:18][C:19](=[O:20])[C:21]([C:22]([H:32])([H:33])[H:34])([C:23]([H:24])[H:25])[H:31])([H:29])[H:30])([H:26])([H:27])[H:28].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])[H:10].[C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])([H:12])[C:23]([C:21]([C:19]([O:18][C:17]([C:16]([H:26])([H:27])[H:28])([H:29])[H:30])=[O:20])([C:22]([H:32])([H:33])[H:34])[H:31])([H:24])[H:25],65.06941748369718
4927,[C:15](=[C:16]([c:17]1[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]([H:29])[c:22]1[H:30])[H:25])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])[O:5][C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:4])([O:5][C:6]([H:12])([H:13])[H:14])[C:22]1([H:30])[C:17]([C:16](=[C:15]([H:23])[H:24])[H:25])=[C:18]([H:26])[C:19]([H:27])=[C:20]([H:28])[C:21]1[H:29])([H:10])[H:11])([H:7])([H:8])[H:9],17.447667563392315
1416,[C:10]([C:11]([C:12]([H:13])[C:14]([C:15]([H:23])([H:24])[H:25])([H:21])[H:22])([H:19])[H:20])([H:16])([H:17])[H:18].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[O:1]([C:2](=[O:3])[C:4]([C:5]([H:8])([H:9])[C:12]([C:11]([C:10]([H:16])([H:17])[H:18])([H:19])[H:20])([H:13])[C:14]([C:15]([H:23])([H:24])[H:25])([H:21])[H:22])[H:7])[H:6],11.479852935706733
